US06150373
A solution of 180 mg (0.3 mmol) of 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione in 10 ml of dichloromethane was treated with 200 mg (0.6 mmol) of 3-chloroperbenzoic acid (50% w/w water) and the mixture stirred at ambient temperature for 18 hours. 0.1 ml of dimethyl sulfoxide was added. After a further 15 minutes 10 ml of dichloromethane and 20 ml of saturated aqueous sodium bicarbonate were added. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 190 mg (100%) of 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione as a white solid. [Mass spectrum (ESI) MH+ =636].

reactant | 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione | 0.3 mmol, 180 mg | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)SC)C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C30H23Cl2N5O3S
reactant | 3-chloroperbenzoic acid | 0.6 mmol, 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dimethyl sulfoxide | 0.1 ml | CS(=O)C | C2H6OS
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione | 190 mg, 100% | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C30H23Cl2N5O5S
